US04985419
Thionyl chloride (3.6 cc) is added to a suspension, cooled to 5° C., of 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride (2.7 g) in methylene chloride (70 cc). The suspension is stirred for 3 hours at 25° C. and then concentrated to dryness at 30° C. under reduced pressure (30 mm Hg; 4 kPa) to give a yellow residue which is taken up with methylene chloride (50 cc) at 5° C. 3-Chlorobenzylamine (6.9 g) is added and the mixture is stirred for 12 hours at 25° C., and saturated sodium bicarbonate solution (150 cc) is then added. The mixture is extracted with ethyl acetate (2×100 cc). The organic phase is washed successively with distilled water (100 cc) and with brine (100 cc), dried over magnesium sulphate, filtered and concentrated to dryness at 40° C. under reduced pressure (30 mm Hg; 4 kPa) to give a brown oil which is purified by chromatography on a column (height: 30 cm; diameter: 2.5 cm) of silica (0.06-0.2 mm), eluting with methylene chloride (1 liter) and collecting 40-cc fractions. Fractions 12 to 24 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give a cream-coloured solid which is taken up in isopropyl ether (20 cc). The solid is separated by filtration, washed with isopropyl ether (2×5 cc) and dried at 40° C. under reduced pressure (1 mm Hg; 0.13 kPa). N-(3-Chlorobenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide (2 g) is obtained in the form of a yellow solid, m.p. approximately 80° C.

reactant | Thionyl chloride | 3.6 cc | S(=O)(Cl)Cl | Cl2OS
reactant | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxylic acid hydrochloride | 2.7 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)O
reactant | 3-Chlorobenzylamine | 6.9 g | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | sodium bicarbonate | 150 cc | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 70 cc | C(Cl)Cl | CH2Cl2
solvent | isopropyl ether | 20 cc | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
product | N-(3-Chlorobenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | 2 g | ClC=1C=C(CNC(=O)C2=CC=3N(C4=CC=CC=C4SC3C=C2)C(CN2CCCC2)C)C=CC1 | C27H28ClN3OS
